US08097610B2
Preparation of N-[1(6-chlorobenzothiazole-2-yl)pyrrolidine-3-yl]-2-nitro benzenesulfonamide
A mixture of 1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-ylamine (2.49 g), 2-nitrobenzenesulphonyl chloride (2.40 g), triethylamine (3.02 mL) and dimethylformamide (15 mL) was stirred at 60° C. for 3 hours. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over sodium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (2.01 g). Yield: 47

reactant | 1-(6-chlorobenzothiazole-2-yl)pyrrolidine-3-ylamine | 2.49 g | ClC1=CC2=C(N=C(S2)N2CC(CC2)N)C=C1 | C11H12ClN3S
reactant | 2-nitrobenzenesulphonyl chloride | 2.40 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | triethylamine | 3.02 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[1(6-chlorobenzothiazole-2-yl)pyrrolidine-3-yl]-2-nitro benzenesulfonamide | 2.01 g | ClC1=CC2=C(N=C(S2)N2CC(CC2)NS(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C17H15ClN4O4S2
